US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-3-(4-fluorophenyl)-2-oxotetrahydropyrimidine-1(2H)-carboxamide
To a solution of 1-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one (360 mg, 1.8 mmol) in tetrahydrofuran (5 mL) was added bis(trichloromethyl) carbonate (330 mg, 1.1 mmol), and the mixture was stirred at 70° C. for 3.5 hr. The mixture was cooled to room temperature, a solution of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (300 mg, 0.92 mmol) in tetrahydrofuran (8 mL) and N,N-diisopropylethylamine (360 mg, 2.8 mmol) were added to the mixture, and the mixture was stirred at room temperature for 30 min. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution were added to the mixture, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=40/60→90/10) to give the title compound (250 mg, 49%) as a white solid.

reactant | 1-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | 1.8 mmol, 360 mg | FC1=CC=C(C=C1)N1C(NCCC1)=O | C10H11FN2O
reactant | bis(trichloromethyl) carbonate | 1.1 mmol, 330 mg | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.92 mmol, 300 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | N,N-diisopropylethylamine | 2.8 mmol, 360 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-3-(4-fluorophenyl)-2-oxotetrahydropyrimidine-1(2H)-carboxamide | 250 mg, 49% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)N2C(N(CCC2)C2=CC=C(C=C2)F)=O)F)C1 | C28H24F2N6O4
